US04870187
5,5-Bis(4-fluorophenyl)-4-(1H-tetrazol-1-yl)-2,4-pentadienal
The reaction was carried out following the general procedure described in Example 7. A suspension of 224.4 mg (0.72 mmole) of 3,3-bis(4-fluorophenyl)-2-(1H-tetrazol-1-yl)-2-propenal and 220 mg (0.72 mmole) of triphenylphosphoranylidene acetaldehyde in 38 mL of dry benzene was stirred at room temperature for 16 hours. The crude reaction mixture was chromatographed on a silica gel column and the purified product thereby obtained was recrystallized from ethyl acetate-hexanes to give 194 mg (92%) of the title compound; m.p.=152.2°-153.7° C.

reactant | 3,3-bis(4-fluorophenyl)-2-(1H-tetrazol-1-yl)-2-propenal | 0.72 mmole, 224.4 mg | FC1=CC=C(C=C1)C(=C(C=O)N1N=NN=C1)C1=CC=C(C=C1)F | C16H10F2N4O
reactant | triphenylphosphoranylidene acetaldehyde | 0.72 mmole, 220 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | benzene | 38 mL | C1=CC=CC=C1 | C6H6
product | 5,5-Bis(4-fluorophenyl)-4-(1H-tetrazol-1-yl)-2,4-pentadienal | 194 mg, 92% | FC1=CC=C(C=C1)C(=C(C=CC=O)N1N=NN=C1)C1=CC=C(C=C1)F | C18H12F2N4O
